US08012966B2
N-{3-[5-(2-Diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide as starting materials to give N-{3-[5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide (55 mg, 80.6%) as an orange solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide | O=C1NC2=CC=C(C=C2C1)NC=O | C9H8N2O2
product | N-{3-[5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide | 55 mg, 80.6% | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)NC=O)=O)=O)CC | C24H29N5O3
